US05231101
11-(1-Methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1.2-b]pyridine-8-carboxamide (Compound No. 2)
Ethanol (150 ml) was added to 2 g of 8-cyano-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine so that the latter was dissolved in the former. An aqueous solution of 2.8 g of potassium hydroxide was added further, followed by reflux for 3.5 hours. After the reaction, the solvent was distilled off under reduced pressure and a brine was added to the residue, followed by extraction with chloroform. The extract was dried over anhydrous Na2SO4 and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol 25:1 and 10:1), 1.4 g of 11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine-8-carboxamide were obtained (yield: 66%).

reactant | 8-cyano-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 2 g | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C)C1 | C21H21N3
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
solvent | Ethanol | 150 ml | C(C)O | C2H6O
product | 11-(1-Methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1.2-b]pyridine-8-carboxamide | yield: 66% | CN1CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=C(C=C2)C(=O)N | C21H23N3O
